US07825128B2
20) 3(2-chloro-5-thiophen-2-yl-pyrimidine-4-yl)-(3-imidazol-1-yl-propyl)-amine
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodo-pyrimidine, 3-imidazol-1-yl-propylamine and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodo-pyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 3-imidazol-1-yl-propylamine | N1(C=NC=C1)CCCN | C6H11N3
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | 3(2-chloro-5-thiophen-2-yl-pyrimidine-4-yl)-(3-imidazol-1-yl-propyl)-amine | ClC1=NC=C(C(=N1)C(CCN)N1C=NC=C1)C=1SC=CC1 | C14H14ClN5S
